US07030200B2
Synthesis of Propiophenone 2,4,6-trimethylphenylimine
2,4,6-Trimethylaniline (11.5 mL, 82 mmol, Aldrich) was mixed with propiophenone (10 mL, 74.5 mmol, Aldrich) and p-TsOH (1.4 g, 7.3 mmol, Aldrich). The resulting mixture was heated for 2 h at 200° C. under a slow stream of Ar to remove H2O which formed. After cooling to RT the reaction mixture was poured into hexanes (100 mL), filtered, the precipitate washed with additional hexanes (2×100 mL) followed by the evaporation of the filtrate. The residue was filtered through a 9×4.1 cm plug of silica gel in hexanes/ether 10/1 (300 mL collected). After evaporation of the solvent the unreacted starting materials were distilled off under vacuum (45–50° C./0.4 mm). The residue was crystallized from methanol. Product was isolated as large orange-yellow crystals, 4.8 g, (25.6%). 1H NMR (CDCl3) 8.00–7.94 (m, 2H); 7.51–7.45 (m, 3H); 6.89 (s, 2H); 2.50 (q, 2H; J=7.7 Hz); 2.31 (s, 3H); 2.04 (s, 6H); 0.98 (t, 3H; J=7.7 Hz).

reactant | 2,4,6-Trimethylaniline | 82 mmol, 11.5 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | propiophenone | 74.5 mmol, 10 mL | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | p-TsOH | 7.3 mmol, 1.4 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | Propiophenone 2,4,6-trimethylphenylimine | CC1=C(C(=CC(=C1)C)C)N=C(CC)C1=CC=CC=C1 | C18H21N
